US07084152B2
The N-methyl indoline product in Example 47 (70 mg, 0.22 mmol) was dissolved in toluene (9 mL) in a 50-mL flask under N2 fitted with a condenser. MnO2 (199 mg, 2.3 mmol) was added, and the mixture was heated to ref lux for 1.5 h. The mixture was cooled to rt, Celite, and the pad was washed several times with liberal amounts of MeOH. The filtrate was concentrated in vacuo, and the residue was purified by silica gel chromatography (gradient 25-35% EtOAc/hexane) to provide the N-methyl indole product (39 mg, 57%) as an orange oil: 1H NMR (300 MHz, CDCl3) δ 6.93-7.11 (m, 5H), 6.72 (d, J=8.5 Hz, 1H), 6.42 (d, J=3.1 Hz, 1H), 4.29 (t, J=5.8 Hz, 1H), 3.84-3.96 (m, 2H), 3.77 (s, 3H), 2.99 (dd, J=11.3, 5.0 Hz, 1H), 2.67 (dd, J=11.3, 6.7 Hz, 1H), 2.49 (s, 3H); ESI MS m/z=313 [C19H18F2N2+H]+.

reactant | N-methyl indoline | CN1CCC2=CC=CC=C12 | C9H11N
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 2.3 mmol, 199 mg | O=[Mn]=O
product | N-methyl indole | 39 mg, 57% | CN1C=CC2=CC=CC=C12 | C9H9N
